US07319099B2
(d) 2-Isobutoxy-5-methylsulfamoyl-benzoic acid methyl ester
To 2.9 mmol 2-hydroxy-5-methylsulfamoyl-benzoic acid methyl ester, 3.1 mmol 2-methyl-1-propanol and 3.3 mmol triphenylphosphine in 10 ml THF was added 3.1 mmol di-tert-butyl azodicarboxylate, and the mixture was stirred at RT for 2 h. The mixture was then concentrated in vacuo. The residue was chromatographed on silica gel (eluant: ethyl acetate/heptane 2:3) to afford the title compound. MS (m/e): 300.2 ([M−H]−, 100%)

reactant | 2-hydroxy-5-methylsulfamoyl-benzoic acid methyl ester | 2.9 mmol | COC(C1=C(C=CC(=C1)S(NC)(=O)=O)O)=O | C9H11NO5S
reactant | 2-methyl-1-propanol | 3.1 mmol | CC(CO)C | C4H10O
reactant | triphenylphosphine | 3.3 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 3.1 mmol | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-Isobutoxy-5-methylsulfamoyl-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)S(NC)(=O)=O)OCC(C)C)=O | C13H19NO5S
